US08877739B2
Synthesis of 3-(L-γ-glutamylamino)benzoic acid (Compound No. 14)
Boc-Glu-OtBu (100 mg, 0.33 mmol) and HATU (150.4 mg, 0.40 mmol) were dissolved in 2 ml of DMF, and triethylamine (68.5 μl) was added to the solution. The mixture was then stirred for 10 minutes. Ethyl 3-aminobenzoate (49.2 mg, 0.33 mmol) was added to the mixture and stirred overnight. After liquid separation was effected with ethyl acetate and 1M aqueous sodium hydroxide solution, the organic layer was washed sequentially with 1M aqueous sodium hydroxide solution, 1M hydrochloric acid and aqueous saturated sodium chloride solution (brine), followed by drying over sodium sulfate. After the solvent was distilled off, the resulting residue was dissolved in 2 ml of THF, 1 ml of ethanol and 1 ml of water. Lithium hydroxide monohydrate (13.5 mg, 0.32 mmol) was added to the solution. After stirring for 5 hours, 4.5 mg of lithium hydroxide was added to the mixture and stirred overnight. After it was confirmed that the reaction was completed, pH of the reaction solution was adjusted to 2 with 1M hydrochloric acid and the solvent was distilled off. After 3 ml of TFA was added to the resulting residue, the mixture was stirred at room temperature for 5 hours and the solvent was removed by distillation. The mixture was then purified according to the purification step A to give the title compound.

reactant | Boc-Glu-OtBu | 0.33 mmol, 100 mg | N([C@@H](CCC(O)=O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C14H25NO6
reactant | HATU | 0.40 mmol, 150.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Ethyl 3-aminobenzoate | 0.33 mmol, 49.2 mg | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
reactant | Lithium hydroxide monohydrate | 0.32 mmol, 13.5 mg | O.[OH-].[Li+]
reactant | lithium hydroxide | 4.5 mg | [OH-].[Li+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 68.5 μl | C(C)N(CC)CC | C6H15N
product | 3-(L-γ-glutamylamino)benzoic acid | yield: 61% | N[C@@H](CCC(=O)NC=1C=C(C(=O)O)C=CC1)C(=O)O | C12H14N2O5
